US08536179B2
To a 10 ml microwave vial added 4-chloro-6-methyl-2-oxo-1,2-dihydro-3-pyridinecarbonitrile (750 mg, 4.45 mmol) and methanol (1 mL) then added ethylamine (5.56 mL, 11.12 mmol). One drop on conc. HCl was added and the vial was capped and the reaction was microwaved to 120° C. for 1 hr. The reaction was cooled and the solid was filtered and washed with cold MeOH. Gave 4-(ethylamino)-6-methyl-2-oxo-1,2-dihydro-3-pyridinecarbonitrile (500 mg, 2.77 mmol, 62.2% yield) 1H NMR (400 MHz, DMSO-d6) δ ppm 11.05 (br. s., 1H) 7.11 (br. s., 1H) 5.78 (br. s., 1H) 3.22-3.32 (m, 2H) 2.11 (s, 3H) 1.10 (t, J=7.07 Hz, 3H)_MS (ES) [M+H]+ 177.8.

reactant | 4-chloro-6-methyl-2-oxo-1,2-dihydro-3-pyridinecarbonitrile | 4.45 mmol, 750 mg | ClC1=C(C(NC(=C1)C)=O)C#N | C7H5ClN2O
reactant | ethylamine | 11.12 mmol, 5.56 mL | C(C)N | C2H7N
reactant | HCl | Cl | ClH
solvent | methanol | 1 mL | CO | CH4O
product | 4-(ethylamino)-6-methyl-2-oxo-1,2-dihydro-3-pyridinecarbonitrile | 2.77 mmol, 500 mg, 62.2% yield | C(C)NC1=C(C(NC(=C1)C)=O)C#N | C9H11N3O
